US07705163B2
Step 1: Preparation of 4-Hydroxy Carbazole
To a reactor containing water (1 L) was added Raney nickel (35 g) followed by 1,2,3,9-tetrahydrocarbazole-4-one (50 g) and sodium hydroxide (15 g). The contents were heated to reflux and maintained for about 20 hours. The catalyst was filtered off and the filtrate was acidified to obtain a solid, which was filtered and dried to obtain the title compound. When necessary, the title compound was further purified by dissolving in 10% sodium hydroxide solution, treating with activated charcoal and precipitation from dilute hydrochloric acid to give off-white to grey crystals of 4-hydroxy carbazole in 50% yield.

reactant | 1,2,3,9-tetrahydrocarbazole-4-one | 50 g | C1CCC(C=2C3=CC=CC=C3NC12)=O | C12H11NO
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
catalyst | Raney nickel | 35 g | [Ni] | Ni
solvent | water | 1 L | O | H2O
product | 4-Hydroxy Carbazole | OC1=CC=CC=2NC3=CC=CC=C3C12 | C12H9NO
